US05773467
Intermediate 5 2-Ethyl-7-methoxybenzofuran-4-carboxylic acid
2-Methyl-2-butene (9 g) was added to a solution of 2-ethyl-7-methoxybenzofurancarboxaldehyde (5 g) in 2-methyl-2-propanol (125 ml). A solution of sodium dihydrogen phosphate monohydrate (20.7 g) in water (15 ml) was added, followed by sodium chlorite (11.05 g). The resultant heterogeneous mixture was stirred vigorously for 30 minutes and then diluted with water (125 ml). The mixture was adjusted to pH 4 by the addition of 2M hydrochloric acid. The mixture was extracted with ethyl acetate (3×200 ml) and the combined organic extracts were washed with water (2×200 ml). The organic solution was concentrated to about 100 ml and then cooled to 10° C. The resultant precipitate was collected by filtration and dried at 500° C. in vacuo to afford a beige solid (4 g).

reactant | 2-Methyl-2-butene | 9 g | CC(C)=CC | C5H10
reactant | 2-ethyl-7-methoxybenzofurancarboxaldehyde | 5 g | C(C)C1(OC2=C(C1)C=CC=C2OC)C=O | C12H14O3
reactant | sodium dihydrogen phosphate monohydrate | 20.7 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 11.05 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | 2-methyl-2-propanol | 125 ml | CC(C)(C)O | C4H10O
solvent | water | 15 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | 2-Ethyl-7-methoxybenzofuran-4-carboxylic acid | 4 g | C(C)C=1OC=2C(C1)=C(C=CC2OC)C(=O)O | C12H12O4
